US07985862B2
1-[3-(acetylamino)benzyl]-5-chloro-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
To a suspension of 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (0.70 g) and N-[3-(aminomethyl)phenyl]acetamide hydrochloride (1.20 g) in methanol (10 ml) was added triethylamine (1.66 ml) at room temperature, and the mixture was stirred overnight at 50° C. The reaction solvent was evaporated under reduced pressure, acetic acid (10 ml) was added, and the mixture was stirred at 50° C. for 2 hr. The solvent was evaporated under reduced pressure, ethyl acetate and saturated aqueous sodium hydrogen carbonate were added, and the aqueous layer was basified with 1N aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=7:3→1:0). The obtained residue was dissolved in methanol, 4N hydrogen chloride-ethyl acetate solution (1 ml) was added, and the mixture was crystallized from methanol-ethyl acetate. The precipitated crystals were collected by filtration, and recrystallized from methanol-ethyl acetate to give the title compound (0.30 g).

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 0.70 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | N-[3-(aminomethyl)phenyl]acetamide hydrochloride | 1.20 g | Cl.NCC=1C=C(C=CC1)NC(C)=O
reactant | triethylamine | 1.66 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
product | 1-[3-(acetylamino)benzyl]-5-chloro-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 0.30 g | Cl.C(C)(=O)NC=1C=C(CN2C(C(=CC(=C2)Cl)C(=O)N)=N)C=CC1 | InChI=1S/C15H15ClN4O2.ClH/c1-9(21)19-12-4-2-3-10(5-12)7-20-8-11(16)6-13(14(20)17)15(18)22;/h2-6,8,17H,7H2,1H3,(H2,18,22)(H,19,21);1H
